US04099002
To a solution of 3.1 g. of 1-cyclopropylmethyl-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone in 50 ml. of dimethylformamide was added 0.42 g. of 63% sodium hydride, and the resulting mixture was stirred at 50° C. for 30 minutes. Thereafter, 3.1 g. of ethyl iodide was added, and the mixture was stirred at 60° C. for 4 hours. After cooling, the reaction mixture was poured into 300 ml. of water and extracted with chloroform, and the chloroform layer was washed with water, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was adsorbed on a silica gel column, eluted with chloroform to obtain yellow oily 1-cyclopropylmethyl-3ethyl-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone. Crystallization from petroleum benzine gave colorless prisms having a melting point of 88°-90° C.

reactant | 1-cyclopropylmethyl-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone | C1(CC1)CN1C(NC(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)=O | C18H17ClN2O
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-cyclopropylmethyl-3ethyl-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone | C1(CC1)CN1C(N(C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)CC)=O | C20H21ClN2O
